US06051712
In an analogous manner to that described in Example 149 (f), by reacting tert-butyl (3SR,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-methanesulphonyloxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate with imidazolidin-2-one there was obtained tert-butyl (3RS,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-5-(2-oxo-imidazolidin-1-ylmethyl)-piperidine-1-carboxylate as a yellowish oil.

reactant | tert-butyl (3SR,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-methanesulphonyloxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1OCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C)COS(=O)(=O)C | C39H47NO8S
reactant | imidazolidin-2-one | N1C(NCC1)=O | C3H6N2O
product | tert-butyl (3RS,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-5-(2-oxo-imidazolidin-1-ylmethyl)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1CN1C(NCC1)=O)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C41H49N3O6
